US04536391
To a suspension of 37 g (0.2 mol) of potassium phthalimide in 200 ml of DMF was added 50 ml of a solution of 19.6 g (0.1 mol) of α-bromo-p-tolunitrile in DMF at room temperature in argon atmosphere. The reaction mixture was stirred at 90° C. for 3 hours, then cooled to room temperature and poured into 400 ml of ice-water, followed by extraction with benzene-ether (1:1). The organic layer was washed with saturated aqueous solution of sodium chloride, dried over Na2SO4 and concentrated, giving 24.9 g (yield 95%) of 4-phthalimidomethylbenzonitrile.

reactant | potassium phthalimide | 0.2 mol, 37 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | α-bromo-p-tolunitrile | 0.1 mol, 19.6 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4-phthalimidomethylbenzonitrile | 24.9 g, yield 95% | C1(C=2C(C(N1CC1=CC=C(C#N)C=C1)=O)=CC=CC2)=O | C16H10N2O2
